US06884801B1
A solution of 2-nitrobromobenzene (2.02 g), 2-bromopyridine (0.80 g), copper powder (1.29 g), and palladium dichloride (0.049 g) in 15 mL of DMSO was heated at 120° C. under N2 for 2 hours. Once cooled, the mixture was diluted with 100 mL of 10% aqueous ammonia and stirred for 30 min. This mixture was filtered, and the filtrate was extracted several times with CHCl3. The combined extracts were dried (Na2SO4) and evaporated. The crude product was purified by chromatography on silica gel with 20% EtOAc/hexanes to yield 0.12 g (22%) of 2-(2-Nitrophenyl)pyridine. [This compound was reported by Molina, Pedro; Lorenzo, Angeles; Aller, Enrique; Tetrahedron; 1992, 48, (22), 4601-4616.]

reactant | 2-nitrobromobenzene | 2.02 g | [N+](=O)([O-])C1=C(C=CC=C1)Br | C6H4BrNO2
reactant | 2-bromopyridine | 0.80 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | ammonia | 100 mL | N | H3N
catalyst | copper | 1.29 g | [Cu] | Cu
catalyst | palladium dichloride | 0.049 g | [Pd](Cl)Cl
product | 2-(2-Nitrophenyl)pyridine | 0.12 g, 22% | [N+](=O)([O-])C1=C(C=CC=C1)C1=NC=CC=C1 | C11H8N2O2
